US07994185B2
Step C: N-[2-({4-[4-(3-{[(2,5-Difluorophenyl)sulfonyl]amino}-2-fluorophenyl)-2-(1,1-dimethylethyl)-1,3-thiazol-5-yl]-2-pyrimidinyl}amino)ethyl]-2-hydroxyacetamide
A mixture of glycolic acid (0.040 g, 0.50 mmol), HATU (0.19 g, 0.50 mmol) and DIEA (0.09 ml, 0.50 mmol) in DMF (1 mL) was added to a stirring solution of N-{3-[5-{2-[(2-aminoethyl)amino]-4-pyrimidinyl}-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide (0.15 g, 0.25 mmol) and DIEA (0.09 ml, 0.50 mmol) in DMF (1 mL). The reaction was stirred for 1 h. LCMS analysis indicated approximately 50% conversion to product. An additional 2.0 equivalents of activated glycolic acid was added and the reaction was allowed to stir for an additional 1 h. LCMS analysis indicated the starting material was still not completely consumed so an additional 2.0 equivalents of activated glycolic acid was added and the reaction was stirred for an addition 1 h. The reaction was diluted with EtOAc, washed with water (×5) and a saturated aqueous brine solution (×2). The organic layer was dried over MgSO4, filtered and the filtrate was concentrated onto silica gel and purified by flash chromatography to afford the title compound (0.072 g, 44% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.75 (br. s., 1H), 8.04 (d, J=5.1 Hz, 1H), 7.77-7.98 (m, 1H), 7.15-7.65 (m, 7H), 5.81-6.01 (m, 1H), 5.49 (t, J=5.2 Hz, 1H), 3.80 (d, J=5.3 Hz, 2H), 3.29 (br. s., 2H), 1.40 (s, 9H). MS (ES+): 621 [M+H]+.

reactant | glycolic acid | 0.50 mmol, 0.040 g | C(CO)(=O)O | C2H4O3
reactant | HATU | 0.50 mmol, 0.19 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.50 mmol, 0.09 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | N-{3-[5-{2-[(2-aminoethyl)amino]-4-pyrimidinyl}-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | 0.25 mmol, 0.15 g | NCCNC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C25H25F3N6O2S2
reactant | DIEA | 0.50 mmol, 0.09 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | glycolic acid | 2.0 equivalents | C(CO)(=O)O | C2H4O3
reactant | glycolic acid | 2.0 equivalents | C(CO)(=O)O | C2H4O3
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-[2-({4-[4-(3-{[(2,5-Difluorophenyl)sulfonyl]amino}-2-fluorophenyl)-2-(1,1-dimethylethyl)-1,3-thiazol-5-yl]-2-pyrimidinyl}amino)ethyl]-2-hydroxyacetamide | 0.072 g, 44% yield | FC1=C(C=C(C=C1)F)S(=O)(=O)NC=1C(=C(C=CC1)C=1N=C(SC1C1=NC(=NC=C1)NCCNC(CO)=O)C(C)(C)C)F | C27H27F3N6O4S2
